US05250688
To a suspension of 2-amino-9-(4-hydroxy-3-hydroxymethylbut-1-yl)purine (237 mg, 1.0 mmol) in dry tetrahydrofuran (3 ml) were added p-toluene-sulphonic acid monohydrate (0.21 g, 1.1 mmol) and tetramethyl orthocarbonate (0.53 ml, 4.0 mmol) and the mixture was stirred for 100 minutes. Water (0.8 ml) was added and after a further 15 minutes the solution was neutralised by addition of aqueous sodium bicarbonate. The solvent was removed and the residue was extracted with chloroform-methanol (3:1). The solvent was removed and the residue was purified by column chromatography on silica gel eluting with chloroform-methanol (10:1) to afford 2-amino-9-(3-hydroxymethyl-4-methoxycarbonyloxybut-1-yl)purine which was obtained as a white crystalline solid after trituration with ethyl acetate (65 mg, 22%), m.p. 129°-132°; νmax (KBr) 3440, 3220, 1745, 1650, 1615, and 1580 cm-1 ; &H [(CD3)2SO] 1.73 (1 H, m, 3'-H), 1.81 (2H, m, 2'-H), 3.41 (2H, t, J 5.1Hz, D2O exchange gives d, CH2OH) 3.68 (3H, s, CH3), 4.0-4.2 (4H, m, CH2OCO and 1'-H), 4.65 (1H, t, J 5.2Hz, D2O exchangeable, OH), 6.44 (2H, s, D2O exchangeable, 2-NH2), 8.06 (1H, s, 8-H), and 8.55 (1H, s, 6-H); (Observed M+, 295.1286, C12H17N5O4 requires 295.1280).

reactant | 2-amino-9-(4-hydroxy-3-hydroxymethylbut-1-yl)purine | 1.0 mmol, 237 mg | NC1=NC=C2N=CN(C2=N1)CCC(CO)CO | C10H15N5O2
reactant | p-toluene-sulphonic acid monohydrate | 1.1 mmol, 0.21 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | tetramethyl orthocarbonate | 4.0 mmol, 0.53 ml | C(OC)(OC)(OC)OC | C5H12O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | Water | 0.8 ml | O | H2O
product | 2-amino-9-(3-hydroxymethyl-4-methoxycarbonyloxybut-1-yl)purine | NC1=NC=C2N=CN(C2=N1)CCC(COC(=O)OC)CO | C12H17N5O4
